US04476132
3.8 g of malonic acid di-tert-butyl ester are dissolved in 40 ml of dimethyl acetamide and converted into the sodium salt by treating with sodium hydride (0.843 g of a 50% strength suspension in mineral oil, de-oiled with hexane). The sodium salt is heated to 105° and, in the course of 1 hour, a solution of N-ethyl-5-butyryl-4-methylisatic acid anhydride in 30 ml of dimethyl acetamide is added. The mixture is stirred at 120° for 5 hours, the dimethyl acetamide is substantially distilled off under reduced pressure, 100 ml of ice-water are added and the reaction mixture is poured into a mixture of 10 ml of 2N hydrochloric acid and 200 ml of ice-water. The crystalline precipitate is filtered with suction, washed twice with cold water and taken up in methylene chloride. The organic phase is separated off, dried over magnesium sulphate, filtered and concentrated by evaporation. The crude product is dissolved in 20 ml of a mixture of 3 parts toluene and 1 part ethyl acetate and chromatographed over 60 g of silica gel using the above solvent mixture as eluant. 30 ml fractions are collected. Fractions 3-9, which according to the thin layer chromatogram contain the desired product, are combined, concentrated by evaporation and recrystallised from 15 ml of methanol. 1-Ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid tert-butyl ester having a melting point of 124°-126° is obtained.

reactant | malonic acid di-tert-butyl ester | 3.8 g | C(C)(C)(C)OC(CC(=O)OC(C)(C)C)=O | C11H20O4
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-ethyl-5-butyryl-4-methylisatic acid anhydride | C(C)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC)=CC(=C(C1)C(CCC)=O)C)=O)=O | C30H36N2O7
solvent | dimethyl acetamide | 40 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-Ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CC)=O | C21H27NO5
